US09290517B2
Step A: tert-butyl N-[(3S,3aR,6R,6aR)-3-[[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]amino]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]carbamate
DBU (18.3 uL, 0.122 mmol) was added to a mixture of 2-[[6-chloro-2-methylsulfonyl-5-(4-phenylphenyl)imidazo[4,5-b]pyridin-1-yl]methoxy]ethyl-trimethyl-silane (50 mg, 0.097 mmol) and tert-butyl N-[(3S,3aR,6R,6aR)-3-amino-2,3,3a,5,6,6a-hexahydrofuro-[3,2-b]furan-6-yl]carbamate (72.6 mg, 0.297 mmol) in DMF (0.39 mL). After 18 hours, the mixture was diluted with ethyl acetate (20 mL) and washed with water (5×20 mL). The organic layer was separate, washed with brine (1×10 mL), dried with MgSO4, filtered and the solvent was removed under vacuum. The crude reaction mixture was then purified on preparative silica gel plates (1×1000 u—developed with 30% EtOAc/hexanes and eluted with EtOAc) to give the title compound. LC-MS: calculated for C35H44ClN5O5Si 677.28 observed m/e minor isomer 678.31 (M+H)+ (Rt 1.34/2 min) and major isomer 608.23 (M+H)+ (Rt 1.04/2 min)

reactant | DBU | 0.122 mmol, 18.3 uL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2-[[6-chloro-2-methylsulfonyl-5-(4-phenylphenyl)imidazo[4,5-b]pyridin-1-yl]methoxy]ethyl-trimethyl-silane | 0.097 mmol, 50 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2COCC[Si](C)(C)C)S(=O)(=O)C | C25H28ClN3O3SSi
reactant | tert-butyl N-[(3S,3aR,6R,6aR)-3-amino-2,3,3a,5,6,6a-hexahydrofuro-[3,2-b]furan-6-yl]carbamate | 0.297 mmol, 72.6 mg | N[C@@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)NC(OC(C)(C)C)=O | C11H20N2O4
solvent | DMF | 0.39 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl N-[(3S,3aR,6R,6aR)-3-[[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]amino]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]carbamate | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2COCC[Si](C)(C)C)N[C@@H]2[C@@H]1[C@H](OC2)[C@@H](CO1)NC(OC(C)(C)C)=O | C35H44ClN5O5Si
